US08283353B2
4′-({4-[trans-4-(2-ethyl-2-hydroxybutoxy)cyclohexyl]-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
Ethyl [(4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-2-methyl-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate (0.6 g) was dissolved in tetrahydrofuran (15 mL), and ethylmagnesium bromide (3.0 M diethyl ether solution, 1.7 mL) was added at 0° C. After stirring at the same temperature for 1 hr, 1 N hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.4 g, 55%).

reactant | Ethyl [(4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-2-methyl-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate | 0.6 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=C(N2)C)C2CCC(CC2)OCC(=O)OCC)=O | C33H37N5O4
reactant | ethylmagnesium bromide | 3.0 M, 1.7 mL | C(C)[Mg]Br
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4′-({4-[trans-4-(2-ethyl-2-hydroxybutoxy)cyclohexyl]-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.4 g, 55% | C(C)C(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C)(CC)O | C35H43N5O3
